US06900227B2
Preparation of 7-hydroxy-2,2-diphenyl-benzo[1,3]dioxole-5-carbonyl chloride
7-Hydroxy-2,2-diphenyl-benzo[1,3]dioxole-5-carboxylic acid (334 mg, 1 mmol) was dissolved in chloroform (5 ml). One drop of triethyl amine was added. At 45 to 50° C. thionylchloride (0.33 ml, 4.5 mmol) was added within 30 minutes. The solution was than stirred for 6 hours at 70° C. The exccess thionyl chloride was removed by evaporation. The crude 7-hydroxy-2,2-diphenyl-benzo[1,3]dioxole-5-carbonyl chloride was used without further purification in the next step.

reactant | 7-Hydroxy-2,2-diphenyl-benzo[1,3]dioxole-5-carboxylic acid | 1 mmol, 334 mg | OC1=CC(=CC2=C1OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)O | C20H14O5
reactant | thionylchloride | 4.5 mmol, 0.33 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | triethyl amine | One drop | C(C)N(CC)CC | C6H15N
product | 7-hydroxy-2,2-diphenyl-benzo[1,3]dioxole-5-carbonyl chloride | OC1=CC(=CC2=C1OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)Cl | C20H13ClO4
